US05863911
1.5: Preparation of 1,1-bis(4-methoxyphenyl)-2-ferrocenyl-1-butene
1.20 g (5.5 mmol) of 4-iodoanisole are dissolved in 20 ml of anhydrous ether under an argon atmosphere. The solution is cooled to 0° C. and then 2.9 ml (4.6 mmol) of a 1.6M n-butyllithium solution are added dropwise. After complete addition, the mixture is maintained at 0° C. for 15 minutes. A solution of ethyl 2-ethyl-2-ferrocenylacetate (0.69 g, 2.3 mmol) dissolved in 10 ml of anhydrous ether is placed in the dropping funnel. The latter solution is added dropwise to the first solution, the temperature being maintained at 0° C. Stirring is maintained for 30 minutes at 0° C. and 2 hours at room temperature. A 1N hydrochloric acid solution is then added to a pH of 1 and the reaction mixture is heated at reflux for 4 hours. After cooling, the product is extracted with ether. The ethereal phase is first washed with water, dried over magnesium sulfate, filtered and then evaporated. The crude product obtained is chromatographed on 60GF254 silica gel plates with a 1/9 ether/pentane mixture as eluent. 0.65 g of the desired compound is obtained (Rf =0.45) with a yield of 62.5%.

reactant | 4-iodoanisole | 5.5 mmol, 1.20 g | IC1=CC=C(C=C1)OC | C7H7IO
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | ethyl 2-ethyl-2-ferrocenylacetate | 2.3 mmol, 0.69 g | C(C)C(C(=O)OCC)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
product | 1,1-bis(4-methoxyphenyl)-2-ferrocenyl-1-butene | 0.65 g, yield of 62.5% | COC1=CC=C(C=C1)C(=C(CC)[C-]1C=CC=C1)C1=CC=C(C=C1)OC.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C23H23O2.C5H5.Fe/c1-4-22(17-7-5-6-8-17)23(18-9-13-20(24-2)14-10-18)19-11-15-21(25-3)16-12-19;1-2-4-5-3-1;/h5-16H,4H2,1-3H3;1-5H;/q2*-1;+2
